US07763636B2
19.3 ethyl 5-trifluoromethylpyrrolo[3,2-b]pyridine-2-carboxylate
1 ml (18.71 mmol) of concentrated sulfuric acid is added to a solution of 0.2 g (0.87 mmol) of 5-trifluoromethyl-pyrrolo[3,2-b]pyridine-2-carboxylic acid, obtained in step 19.2, in 10 ml of ethanol. The solution is refluxed for 20 hours and then cooled and concentrated under reduced pressure. The resulting residue is then taken up in 50 ml of dichloromethane and washed successively with 20 ml of saturated aqueous sodium hydrogen carbonate solution, 40 ml of water and 20 ml of saturated aqueous sodium chloride solution, dried over sodium sulfate and then concentrated under reduced pressure. 0.19 g of product is obtained, and is used without further purification in the following step.

reactant | sulfuric acid | 18.71 mmol, 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-trifluoromethyl-pyrrolo[3,2-b]pyridine-2-carboxylic acid | 0.87 mmol, 0.2 g | FC(C1=CC=C2C(=N1)C=C(N2)C(=O)O)(F)F | C9H5F3N2O2
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 5-trifluoromethylpyrrolo[3,2-b]pyridine-2-carboxylate | 0.19 g | FC(C1=CC=C2C(=N1)C=C(N2)C(=O)OCC)(F)F | C11H9F3N2O2
